US05576324
6-(2-Methyl-2-propenyl)-5-hydroxy-3,3,8-trimethylcarbostyril
Using 5-hydroxy-3,3,8-trimethylcarbostyril (1.99 g, 9.69 mmol), 3-chloro-2-methyl-1-propene (1.08 g, 12.0 mmol), and potassium carbonate (2.67 g, 19.38 mmol), the procedure of Reference Example 41 was followed (reaction and post-treatment) to obtain 2.43 g of a crude ether. The obtained crude (2.43 g) was allowed to react and post-treated in a manner similar to that Reference Example 47, followed by purifying by silica gel column chromatography(ether:hexane =1:1). As a result, 1.37 g of the title compound was obtained as a colorless solid (54.4%).

reactant | 5-hydroxy-3,3,8-trimethylcarbostyril | 9.69 mmol, 1.99 g | OC=1C2=CC(C(N=C2C(=CC1)C)=O)(C)C | C12H13NO2
reactant | 3-chloro-2-methyl-1-propene | 12.0 mmol, 1.08 g | ClCC(=C)C | C4H7Cl
reactant | potassium carbonate | 19.38 mmol, 2.67 g | C([O-])([O-])=O.[K+].[K+]
solvent | ether | 2.43 g | CCOCC | C4H10O
product | 6-(2-Methyl-2-propenyl)-5-hydroxy-3,3,8-trimethylcarbostyril | 1.37 g | CC(CC1=C(C2=CC(C(N=C2C(=C1)C)=O)(C)C)O)=C | C16H19NO2
